### ISSUE TITLE
Theorem from mathlib that doesn't fully work

### ISSUE THREAD

**Issue by lakesare** [Paper-Proof/paperproof#25]
```
theorem pow_dvd_pow_of_dvd {a b : α} (h : a ∣ b) : ∀ n : ℕ, a ^ n ∣ b ^ n
  | 0 => by rw [pow_zero, pow_zero]
  | n + 1 => by
    rw [pow_succ, pow_succ]
    exact mul_dvd_mul h (pow_dvd_pow_of_dvd h n)
```

<img width="1113" alt="image" src="https://github.com/Paper-Proof/paperproof/assets/7578559/3bb69d0b-201d-43bc-a953-d15974dd7141">

**Comment by lakesare** [comment]
PSA still doesn't work at the current version

<img width="473" alt="image" src="https://github.com/Paper-Proof/paperproof/assets/7578559/81993c64-2a2e-42f4-8761-a19a4a77be4a">

**Comment by lakesare** [comment]
```
import Mathlib.Data.Set.Basic
import Mathlib.Algebra.BigOperators.Fin
import Mathlib.Tactic.GCongr
import Paperproof
theorem Fintype.card_fin_lt_of_le {m n : ℕ} (h : m ≤ n) :
    Fintype.card {i : Fin n // i < m} = m := by
  conv_rhs => rw [← Fintype.card_fin m]
  apply Fintype.card_congr
  exact { toFun := fun ⟨⟨i, _⟩, hi⟩ ↦ ⟨i, hi⟩
          invFun := fun ⟨i, hi⟩ ↦ ⟨⟨i, lt_of_lt_of_le hi h⟩, hi⟩
          left_inv := fun i ↦ rfl
          right_inv := fun i ↦ rfl }
```  

<img width="441" alt="image" src="https://github.com/Paper-Proof/paperproof/assets/7578559/befa5d56-4101-4540-805c-cfa6280fc216">

`card (Fin m)` doesn't get closed.
